US05026625
N-ethyl--N-pivaloyl-2,4-difluoroaniline
15.7 g of N-ethyl-2,4-difluoroaniline and 11.0 g of triethylamine are dissolved in 40 ml of toluene. 12.1 g of pivaloyl chloride are added dropwise with cooling, and the mixture is then heated at the boiling point for 1 hour. The mixture is discharged into 100 ml of ice water, and the toluene phase is separated off, washed with 1 N HCl and then with H2O and evaporated in vacuo. 23.7 g of a yellowish oil which crystallizes on standing are obtained. Melting point: 69°-71° (recrystallized from dilute ethanol).

reactant | N-ethyl-2,4-difluoroaniline | 15.7 g | C(C)NC1=C(C=C(C=C1)F)F | C8H9F2N
reactant | triethylamine | 11.0 g | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 12.1 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | N-ethyl--N-pivaloyl-2,4-difluoroaniline | C(C)N(C1=C(C=C(C=C1)F)F)C(C(C)(C)C)=O | C13H17F2NO
